US07326791B2
N-[(1S)-1-(7-amino-5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (1S)-1-(7-amino-5-chloro-1H-benzimidazol-2-yl)ethylamine in dimethylformamide. Yield: 22%; Rf value: 0.45 (silica gel; dichloromethane/ethanol/ammonia=9:1:0.1); C22H24ClN5O2 (425.92); mass spectrum: (M+H)+=426/428 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(7-amino-5-chloro-1H-benzimidazol-2-yl)ethylamine | NC1=CC(=CC2=C1NC(=N2)[C@H](C)N)Cl | C9H11ClN4
reactant | dichloromethane ethanol ammonia | ClCCl.C(C)O.N
reactant | chlorine | ClCl | Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[(1S)-1-(7-amino-5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 22% | NC1=CC(=CC2=C1NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)Cl | C22H24ClN5O2
